US07915267B2
3-nitro-1-(triphenylmethyl)-1H-1,2,4-triazole
A solution of 3-nitro-1H-1,2,4-triazole (1.00 g, 8.77 mmol), trityl chloride (4.89 g, 17.5 mmol) and diisopropylethylamine (3.05 mL, 17.5 mmol) in THF (50 mL) was stirred at room temperature for 15 hr. The mixture was concentrated under reduced pressure, and the residue was extracted with ethyl acetate and water. The organic layer was washed with saturated brine, dried over sodium sulfate, and concentrated. The residue was purified by silica gel column chromatography (15-30% ethyl acetate/hexane) to give the title compound as a white powder (2.90 g, 93%).

reactant | 3-nitro-1H-1,2,4-triazole | 8.77 mmol, 1.00 g | [N+](=O)([O-])C1=NNC=N1 | C2H2N4O2
reactant | trityl chloride | 17.5 mmol, 4.89 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)Cl | C19H15Cl
reactant | diisopropylethylamine | 17.5 mmol, 3.05 mL | C(C)(C)N(CC)C(C)C | C8H19N
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | 3-nitro-1-(triphenylmethyl)-1H-1,2,4-triazole | 2.90 g, 93% | [N+](=O)([O-])C1=NN(C=N1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C21H16N4O2
